US07148236B2
To a suspension of lead thiocyanate (6.49 g, 20.05 mmol) in CH2Cl2 (125 mL) under nitrogen at 0° C. PhICl2 (4.41 g, 16.05 mmol) was added in one portion. After 20 min at 0° C. a solution of 2-bromophenol (2.31 g, 1.55 mL, 13.37 mmol) in CH2Cl2 (10 mL) was added. After stirring the mixture for 45 min at 0° C. the salts were filtered and the solvent evaporated. The crude mixture was purified by silica gel flash chromatography (hexane-EtOAc 5:1→2:1) to yield 1 (2-bromo4-thiocyanatophenol) (1031 mg, 33%) as a pale yellow oil.

reactant | lead thiocyanate | 20.05 mmol, 6.49 g | [Pb](SC#N)SC#N
reactant | 2-bromophenol | 13.37 mmol, 1.55 mL, 2.31 g | BrC1=C(C=CC=C1)O | C6H5BrO
solvent | CH2Cl2 | 125 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-bromo4-thiocyanatophenol | BrC1=C(C=CC(=C1)SC#N)O | C7H4BrNOS
